US07064122B2
(5.1) To a stirring solution of 5-amino-3-methyl-thiophene-2,4-dicarboxylic acid 2-octyl ester 4-tert-butyl ester (348 mg, 0.94 mmol) and DBU (0.35 mL, 360 mg, 2.4 mmol) in CH2Cl2 (10 mL) was added octyl isocyanate (0.166 mL, 146 mg, 0.94 mmol). The reaction was stirred RT for 16 h, and then solvent was removed under reduced pressure. The product was purified by column chromatography (5:1; hexanes:EtOAc) to give 431 mg of a solid (87%): Mp 92.0-94.0° C.; 1H NMR (CDCl3) δ 12.30 (s, 1H), 8.64 (s, 1H), 5.30 (t, 1H, J=6.0 Hz), 4.25 (t, 2H, J=6.4 Hz), 3.29 (q, 2H, J=6.0 Hz), 2.74 (s, 3H), 1.90-1.50 (m, 4H), 1.61 (s, 9H), 1.28 (bs, 20H), 0.88 (m, 6H). MS (EI): 525.1 (m+). 3-Methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 2-benzyl ester 4-tert-butyl ester. (5.2) The same method as for the preparation of 3-methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 4-tert-butyl ester 2-octyl ester was employed. Thus, acylation with octyl isocyanate (3.83 mL, 3.37 g, 21.7 mmol) afforded 3.42 g of a solid (38%) after column chromatography (9:1; hexanes:EtOAc): Mp 119.0-120.0° C.; 1H NMR (CDCl3) δ 11.03 (s, 1H), 7.50-7.20 (m, 5H), 5.27 (s, 2H), 5.03 (vt, 1H), 3.29 (q, 2H, J=6.6 Hz), 2.71 (s, 3H), 1.63-1.40 (m, 2H), 1.57 (s, 9H), 1.26 (bs, 10H), 0.87 (t, 3H, J=6.6 Hz). MS (EI): 502.8 (m+). 3-Methyl-5-(3-tetradecyl-ureido)-thiophene-2,4-dicarboxylic acid 2-benzyl ester 4-tert-butyl ester. (5.3) The same method as for the preparation of 3-methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 4-tert-butyl ester 2-octyl ester was employed. Thus, acylation with tetradecyl isocyanate (0.33 mL, 287 mg, 1.2 mmol) afforded 253 mg of a solid (36%) after column chromatography (9:1; hexanes:EtOAc): Mp 104.5-106.0° C.; 1H NMR (CDCl3) δ 11.04 (s, 1H), 7.50-7.20 (m, 5H), 5.27 (s, 2H), 5.14 (t, 1H, J=6.2 Hz), 3.29 (q, 2H, J=6.2 Hz), 2.71 (s, 3H), 1.65-1.40 (m, 2H), 1.57 (s, 9H), 1.25 (bs, 22H), 0.88 (t, 3H, J=6.0 Hz). MS (EI): 587.1 (m+). 5-(3-Hexadecyl-ureido)-3-methyl-thiophene-2,4-dicarboxylic acid 2-benzyl ester 4-tert-butyl ester. (5.4) The same method as for the preparation of 3-methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 4-tert-butyl ester 2-octyl ester was employed. Thus, acylation with hexadecyl isocyanate (0.37 mL, 321 mg, 1.2 mmol) afforded 218 mg of a solid (30%) after column chromatography (9:1; hexanes:EtOAc): Mp 104.0-105.0° C.; 1H NMR (CDCl3) δ 11.04 (s, 1H), 7.50-7.20 (m, 5H), 5.27 (s, 2H), 5.14 (t, 1H, J=6.2 Hz), 3.29 (q, 2H, J=6.2 Hz), 2.71 (s, 3H), 1.65-1.40 (m, 2H), 1.57 (s, 9H), 1.25 (bs, 26H), 0.88 (t, 3H, J=6.0 Hz). MS (EI): 615.1 (m+). 5-(3-Dodecyl-ureido)-3-methyl-thiophene-2,4-dicarboxylic acid 2-benzyl ester 4-tert-butyl ester. (5.5) The same method as for the preparation of 3-methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 4-tert-butyl ester 2-octyl ester was employed. Thus, acylation with decyl isocyanate (0.29 mL, 254 mg, 1.2 mmol) afforded 265 mg of a solid (40%) after column chromatography (9:1; hexanes:EtOAc): Mp 106.8-108.0° C.). 1H NMR (CDCl3) δ 11.04 (s, 1H), 7.45-7.26 (m, 5H), 5.27 (s, 2H), 5.24 (t, 1H, J=5.6 Hz), 3.28 (q, 2H, J=6.6 Hz), 2.72 (s, 3H), 1.60-1.40 (m, 2H), 1.57 (s, 9H), 1.25 (bs, 18H), 0.88 (t, 3H, J=6.4 Hz). MS (EI): 559.0 (m+).

reactant | 3-Methyl-5-(3-tetradecyl-ureido)-thiophene-2,4-dicarboxylic acid 2-benzyl ester 4-tert-butyl ester | C(C)(C)(C)OC(=O)C=1C(=C(SC1NC(=O)NCCCCCCCCCCCCCC)C(=O)OCC1=CC=CC=C1)C | C33H50N2O5S
reactant | 3-methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 4-tert-butyl ester 2-octyl ester | CC(CCCCCC)OC(=O)C=1SC(=C(C1C)C(=O)OC(C)(C)C)NC(=O)NCCCCCCCC | C28H48N2O5S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tetradecyl isocyanate | 1.2 mmol, 0.33 mL, 287 mg | C(CCCCCCCCCCCCC)N=C=O | C15H29NO
